US04278748
N-(Benzotriazol-5-yl)-4-(2-acetylhydrazino)phenoxyacetamide
A solution of 4-(2-acetylhydrazino)phenoxyacetic acid (1.1 g), N-hydroxybenzotriazole (1.0 g) and 5-aminobenzotriazole (0.67 g, 0.005 mole) in dry dimethylformamide (10 ml) was stirred at 0° under dry nitrogen. Dicyclohexylcarbodiimide (1.1 g) in dry dimethylformamide (5 ml) was added dropwise over 15 minutes and the reaction mixture was stirred for 1 hour at 0° and 4 hours at room temperature. The dicyclohexylurea which precipitated was filtered and dried (0.7 g) and the filtrate was stirred at 60° overnight, under nitrogen. The reaction mixture was cooled and an additional precipitate of dicyclohexylurea was filtered off (0.3 g). The filtrate was evaporated, the residue was triturated with boiling methanol (50 ml) and the solid which precipitated was filtered off and dried (0.7 g). The filtrate was cooled at 5° overnight and the solid which crystallized out was filtered off and dried (0.6 g). The two precipitates, which were identical by IR, were combined and recrystallized from methanol:acetonitrile to give the product was a beige-colored powder (1.0 g). NMR analysis indicates the presence of ca 0.3 mole of H2O.

reactant | 4-(2-acetylhydrazino)phenoxyacetic acid | 1.1 g | C(C)(=O)NNC1=CC=C(OCC(=O)O)C=C1 | C10H12N2O4
reactant | N-hydroxybenzotriazole | 1.0 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 5-aminobenzotriazole | 0.005 mole, 0.67 g | NC1=CC2=C(NN=N2)C=C1 | C6H6N4
reactant | Dicyclohexylcarbodiimide | 1.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | H2O | ca 0.3 mole | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-(Benzotriazol-5-yl)-4-(2-acetylhydrazino)phenoxyacetamide | N1N=NC2=C1C=CC(=C2)NC(COC2=CC=C(C=C2)NNC(C)=O)=O | C16H16N6O3
